US08013008B2
4-[(2S,3S,5R)-3-hydroxy-2,3,5-trimethylpyrrolidin-1-yl]-2-methoxybenzonitrile
To a solution (5 mL) of 2-fluoro-4-[(2S,3S,5R)-3-hydroxy-2,3,5-trimethylpyrrolidin-1-yl]benzonitrile (47.6 mg) in DMSO was added sodium methoxide (35 mg) and the mixture was stirred at 100° C. for 3.5 hr. Sodium methoxide (130 mg) was added, and the mixture was stirred at 100° C. for 4.5 hr. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=50/1→2/3) to give the title compound as a colorless solid (yield: 25.1 mg, yield: 50%).

reactant | 2-fluoro-4-[(2S,3S,5R)-3-hydroxy-2,3,5-trimethylpyrrolidin-1-yl]benzonitrile | 5 mL, 47.6 mg | FC1=C(C#N)C=CC(=C1)N1[C@H]([C@@](C[C@H]1C)(C)O)C | C14H17FN2O
reactant | sodium methoxide | 35 mg | C[O-].[Na+]
reactant | Sodium methoxide | 130 mg | C[O-].[Na+]
reactant | water | O | H2O
solvent | DMSO | CS(=O)C | C2H6OS
product | 4-[(2S,3S,5R)-3-hydroxy-2,3,5-trimethylpyrrolidin-1-yl]-2-methoxybenzonitrile | yield: 25.1 mg, yield: 50% | O[C@@]1([C@@H](N([C@@H](C1)C)C1=CC(=C(C#N)C=C1)OC)C)C | C15H20N2O2
